US08809369B2
A mixture of 4-aminobenzoic acid ethyl ester (3.3 g, 20 mmol), 3-trifluoromethyl benzaldehyde (3.48 g, 20 mmol) and ytterbium(III) triflate hydrate (1.86 g, 3 mmol) in acetonitrile (150 mL) was cooled to 0° C. in a sealed reaction bottle. Then a cooled solution of isobutene (5.6 g, 100 mmol) was added into. The reaction mixture was heated to 90° C. and stirred for 12 h. The solvent was removed in vacuo and the residue was purified on flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company) (10% ethyl acetate/hexanes) to afford 4,4-dimethyl-2-(3-trifluoromethyl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (3.0 g, 40%) as a white solid: MS (ESI) M+1=378.3.

reactant | 4-aminobenzoic acid ethyl ester | 20 mmol, 3.3 g | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
reactant | 3-trifluoromethyl benzaldehyde | 20 mmol, 3.48 g | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | ytterbium(III) triflate hydrate | 3 mmol, 1.86 g | O.[O-]S(=O)(=O)C(F)(F)F.[Yb+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
reactant | isobutene | 100 mmol, 5.6 g | C=C(C)C | C4H8
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 4,4-dimethyl-2-(3-trifluoromethyl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 3.0 g, 40% | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC=C1)C(F)(F)F)(C)C | C21H22F3NO2
